US06248740B1
Production of 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-methoxyimidazo[1,2-b]pyridazine
758 mg of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 40 ml of N,N-dimethylformamide; 102 mg of a 60% sodium hydride dispersion in mineral oil was added, followed by stirring at 60° C. for 40 minutes. After cooling, 428 mg of 6-chloro-2-methoxyimidazo[1,2-b]pyridazine was added, followed by stirring at 100° C. for 2.5 hours. After cooling, ice water and sodium chloride were added, followed by extraction with ethyl acetate-tetrahydrofuran (1:2); the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated; the crystal precipitated was recrystallized from ethanol to yield 499 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 758 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-2-methoxyimidazo[1,2-b]pyridazine | 428 mg | ClC=1C=CC=2N(N1)C=C(N2)OC | C7H6ClN3O
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-methoxyimidazo[1,2-b]pyridazine | 499 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C=C(N2)OC)C2=CC=CC=C2 | C28H32N4O3
